US09029371B2
To a mixture of 2-amino-1-(4-benzyloxy-phenyl)-ethanol (20.10 g; 82.6 mmol), Et3N (13.82 mL; 99.1 mmol), CH2Cl2 (200 mL) and MeOH (20 mL) was added dropwise chloroacetyl chloride (7.24 mL; 90.9 mmol) at −10° C. The resulting mixture was allowed to warm to RT and stirred overnight, and subsequently concentrated in vacuo. The residue was purified by flash chromatography (SiO2, EtOAc) to afford N-[2-(4-benzyloxy-phenyl)-2-hydroxy-ethyl]-2-chloro-acetamide (17.45 g).

reactant | 2-amino-1-(4-benzyloxy-phenyl)-ethanol | 82.6 mmol, 20.10 g | NCC(O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H17NO2
reactant | Et3N | 99.1 mmol, 13.82 mL | CCN(CC)CC | C6H15N
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
reactant | chloroacetyl chloride | 90.9 mmol, 7.24 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | MeOH | 20 mL | CO | CH4O
product | N-[2-(4-benzyloxy-phenyl)-2-hydroxy-ethyl]-2-chloro-acetamide | 17.45 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CNC(CCl)=O)O | C17H18ClNO3
